US09130244B2
52.99 g (0.50 mol) of an aqueous solution of 85% 2-hydroxypropionic acid and 45 mL of toluene were dissolved in 84.09 g (1.50 mol) of propargyl alcohol, and 1.0 mL of concentrated sulfuric acid was added thereto. Using a Dean-Stark device under normal pressure, the formed water was removed from the system, and this was further reacted under reflux under normal pressure. After 3 hours, the reaction liquid was analyzed through liquid chromatography, and the disappearance of the starting materials was confirmed. Then, the reaction liquid was neutralized with sodium acetate added thereto, filtered, and the filtrate was concentrated. The residue was purified through reduced pressure distillation to give 28.81 g (45% yield) of 2-propynyl 2-hydroxypropionate.

reactant | 2-hydroxypropionic acid | OC(C(=O)O)C | C3H6O3
reactant | propargyl alcohol | 1.50 mol, 84.09 g | C(C#C)O | C3H4O
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | 2-propynyl 2-hydroxypropionate | 28.81 g, 45% yield | OC(C(=O)OCC#C)C | C6H8O3
